US09029545B2
N-{2,6-Dimethyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-yl}benzenesulfonamide
To a stirred solution of 2,6-dimethyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-amine (100 mg, 0.352 mmol) (Description 4) in THF (2 mL), cooled in an ice bath, was added LiHMDS (1M solution in THF) (0.774 mL, 0.774 mmol). The reaction mixture was stirred at RT for 45 min before the addition of benzenesulfonyl chloride (0.155 g, 0.879 mmol). The reaction mixture was then stirred at RT for a further 12 h. The reaction mixture was then diluted with water (15 mL) and the aqueous layer extracted with DCM (3×30 mL) and the combined organic extracts dried over a phase separating column and concentrated. MeOH (ca. 0.5 mL) was added to the residue which resulted in the precipitation of a solid. The solid was filtered, washed with MeOH (2 mL) and dried, to afford the title compound (88 mg). LCMS (A) m/z: 425 [M+1]+, Rt 1.40 min (basic).

reactant | 2,6-dimethyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-amine | 0.352 mmol, 100 mg | CC1=C(C2=C(N=C(C=C2N)C)S1)C1=CC(=CC=C1)OC | C16H16N2OS
reactant | LiHMDS | 0.774 mmol, 1M, 0.774 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | benzenesulfonyl chloride | 0.879 mmol, 0.155 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | N-{2,6-Dimethyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-yl}benzenesulfonamide | 88 mg | CC1=C(C=2C(=NC(=CC2NS(=O)(=O)C2=CC=CC=C2)C)S1)C1=CC(=CC=C1)OC | C22H20N2O3S2
